US08445686B2
N—[(S)-1-(3-methoxy-phenyl)ethyl]-4-pyridin-4-yl-benzamide
A mixture of 4-(pyridin-4-yl)benzoic acid (0.970 g, 4.87 mmol), (S)-1-(3-methoxyphenyl)ethanamine (0.884 g, 5.84 mmol), DIEA (1.7 ml, 9.8 mmol), and O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (1.87 g, 5.82 mmol) in DMF (10 ml) was stirred overnight, diluted with EtOAc, washed with 1N NaOH, sat NaHCO3, and brine, dried (Na2SO4), and chromatographed (20-85% EtOAc/dichloromethane) and triturated (Et2O) to give the title compound (1.075 g, 3.23 mmol) as a white solid.

reactant | 4-(pyridin-4-yl)benzoic acid | 4.87 mmol, 0.970 g | N1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
reactant | (S)-1-(3-methoxyphenyl)ethanamine | 5.84 mmol, 0.884 g | COC=1C=C(C=CC1)[C@H](C)N | C9H13NO
reactant | DIEA | 9.8 mmol, 1.7 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 5.82 mmol, 1.87 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N—[(S)-1-(3-methoxy-phenyl)ethyl]-4-pyridin-4-yl-benzamide | 3.23 mmol, 1.075 g | COC=1C=C(C=CC1)[C@H](C)NC(C1=CC=C(C=C1)C1=CC=NC=C1)=O | C21H20N2O2
